US09102692B2
5-Bromo-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid ethyl ester (844 mg, 2.0 mmol), 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (742 mg, 2.4 mmol), potassium phosphate (848 mg, 4.0 mmol), and tetrakis(triphenylphosphine) palladium (116 mg, 0.1 mmol) were placed into a flask. After deaeration, the air was replaced with nitrogen. Anhydrous dioxane (16 ml) and water (4 ml) were added to the flask, and this was stirred at 80° C. for 15 hours. After cooling it to room temperature, the reaction mixture was filtered through Celite, and then washed with ethyl acetate. The filtrate was concentrated, and the residue obtained by concentration under reduced pressure was purified by silica gel column chromatography. Thus, 5-(1-tert-butoxycarbonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid ethyl ester was obtained as a colorless amorphous material (1.0 g, 97.2%).

reactant | 5-Bromo-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid ethyl ester | 2.0 mmol, 844 mg | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)Br)S(=O)(=O)C1=CC=C(C=C1)C | C18H16BrNO4S
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 2.4 mmol, 742 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C16H28BNO4
reactant | potassium phosphate | 4.0 mmol, 848 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dioxane | 16 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium | 0.1 mmol, 116 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 4 ml | O | H2O
product | 5-(1-tert-butoxycarbonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)C=1CCN(CC1)C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)C | C28H32N2O6S
